US09302989B2
N-(4-{3-[(3-methylbutyl)carbamoyl]azetidin-1-yl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 3-methylbutan-1-amine for 3-phenylpropan-1-amine and 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)azetidine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.59 (s, 1H), 8.49 (d, J=5.0 Hz, 1H), 8.13 (s, 1H), 7.90 (t, J=5.5 Hz, 1H), 7.42 (d, J=4.8 Hz, 1H), 7.34-7.27 (m, 2H), 6.41-6.34 (m, 2H), 4.79-4.73 (m, 4H), 3.94-3.85 (m, 2H), 3.76-3.69 (m, 2H), 3.47-3.36 (m, 1H), 3.13-3.04 (m, 2H), 1.65-1.48 (m, 1H), 1.35-1.24 (m, 2H), 0.87 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 408 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)azetidine-3-carboxylic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(C=C2)N2CC(C2)C(=O)O | C18H18N4O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(4-{3-[(3-methylbutyl)carbamoyl]azetidin-1-yl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | CC(CCNC(=O)C1CN(C1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)C | C23H29N5O2
